* source LAB1
R_R1         N02162 N02158  1k TC=0,0 
V_V3         N02270 0  AC 1
+SIN 0 220 50 0 0 0
D_D1         0 N02158 Dbreak 
X1_TX1         N02270 0  N02170 0 ST_Model
D_D2         N02170 N02158 Dbreak 
D_D3         N02162 0 Dbreak 
D_D4         N02162 N02170 Dbreak 
